US07410976B2
tert-butyl-6-bromo-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate (19.8 g, 50.0 mmol), bis(pinacolato)diboran (14.0 g, 55.0 mmol), Pd(OAc)2 (560 mg, 2.50 mmol), DPPF (2.77 g, 5.00 mmol), and AcOK (5.82 g, 60.0 mmol) were suspended in dioxane (250 mL) and heated at 100° C. for 10 hours. After cooling down to room temperature, 5-bromo-nicotinicacid tert-butyl ester (14.2 g, 55.0 mmol), Pd(PPh3)4 (5.78 g, 5.00 mmol) and 2M Na2CO3 aq. (125 mL, 250 mmol) were added to the reaction mixture; and then heated at 100° C. for 15 hours. The reaction mixture was diluted with EtOAc and H2O, organic layer was washed with brine and dried over MgSO4. After filtration, the solvents were removed in vacuo and the residue was purified by silica gel column chromatography (hexane/EtOAc=10/0 to 6/4) and the obtained brown solid was crystallized from EtOAc/hexane (1/1) to afford 5-{1′-tert-butoxycarbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid tert-butyl ester as a pale yellow solid.

reactant | tert-butyl-6-bromo-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | 50.0 mmol, 19.8 g | C(C)(C)(C)OC(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)Br | C18H22BrNO4
reactant | AcOK | 60.0 mmol, 5.82 g | C(=O)(C)O[K]
reactant | 5-bromo-nicotinicacid tert-butyl ester | 55.0 mmol, 14.2 g | C(C)(C)(C)OC(C1=CN=CC(=C1)Br)=O | C10H12BrNO2
reactant | Na2CO3 | 250 mmol, 2M, 125 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd(OAc)2 | 2.50 mmol, 560 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 5.00 mmol, 2.77 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(PPh3)4 | 5.00 mmol, 5.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | nicotinic acid tert-butyl ester | C(C)(C)(C)OC(C1=CN=CC=C1)=O | C10H13NO2
